US06660744B1
3,5-Dimethyl-4-isoxazolecarbonyl chloride (22 mg, 0.137 mmol) was added to a solution of cis-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (30 mg, 0.067 mmol) in pyridine (0.5 mL). After 5 hours, the solvent was evaporated and the residue was re-crystallized from DMSO to give cis-N4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-3,5-dimethyl-4-isoxazolecarboxamide (33 mg, 87%). 1H NMR (DMSO-d6) δ 1.91 (m, 2H), 2.24 (m, 2H), 2.36 (m, 2H), 2.41 (s, 3H), 2.63 (s, 3H), 2.77 (m, 3H), 3.17 (s, 3H), 3.37 (bm, 8H), 3.95 (s, 3H), 4.95 (m, 1H), 7.37 (m, 2H), 8.17 (d, J=8.17, 1H), 8.30 (s, 1H), 9.26 (s, 1H). LC/MS (Micromass-Column: Pecosphere, C18, 3 um, 33×4.6 mm. Eluents: 0% B/A to 100% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 3.5 mL/min.), MH+ =560.2, Rt=2.44 min.

reactant | 3,5-Dimethyl-4-isoxazolecarbonyl chloride | 0.137 mmol, 22 mg | CC1=NOC(=C1C(=O)Cl)C | C6H6ClNO2
reactant | cis-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.067 mmol, 30 mg | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)OC | C23H32N8O
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | cis-N4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-3,5-dimethyl-4-isoxazolecarboxamide | 33 mg, 87% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2C(=NOC2C)C)OC)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C29H37N9O3
